US08440693B2
Intermediate 188.3: 5-(5-Methyl-2-nitro-phenoxymethyl)-thiazole
To a solution of 5-(hydroxymethyl)-1,3-thiazole (1 g, 8.68 mmol) in DMF (15 mL) was added NaH (0.413 g, 9.47 mmol) under an argon atmosphere. The reaction mixture was stirred for 20 min at 0° C. 3-Fluoro-4-nitrotoluene (1.2 g, 7.89 mmol) was added. The resulting mixture was stirred for 1 h at RT, quenched by addition of a saturated aqueous solution of NaHCO3 and extracted with AcOEt. The organic phase was washed with a saturated aqueous solution of NaHCO3, dried (Na2SO4), filtered and concentrated. The residue was purified by column chromatography (SiO2; hexane/AcOEt 60:40→40:60) to afford 936 mg of the title compound as an orange solid. TLC: RF=0.35 (hexane/AcOEt 1:1); HPLC: LtRet=4.26 min; LC-MS: m/z 251.2 [M+H]+.

reactant | 5-(hydroxymethyl)-1,3-thiazole | 8.68 mmol, 1 g | OCC1=CN=CS1 | C4H5NOS
reactant | NaH | 9.47 mmol, 0.413 g | [H-].[Na+]
reactant | 3-Fluoro-4-nitrotoluene | 7.89 mmol, 1.2 g | FC=1C=C(C=CC1[N+](=O)[O-])C | C7H6FNO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 5-(5-Methyl-2-nitro-phenoxymethyl)-thiazole | 936 mg | CC=1C=CC(=C(OCC2=CN=CS2)C1)[N+](=O)[O-] | C11H10N2O3S
